US06861409B2
In 10 ml of DMF, HCl, H-D-Trp-NH2 (8.9 mmol; 1 eq.), Boc-D-Trp-OH (2.98 g; 9.8 mmol; 1.1 eq.), NMM (2.26 ml; 2.1 eq.) and BOP (4.33 g; 1.1 eq.) were added successively. After 1 hr, the mixture was diluted with ethyl acetate (100 ml) and washed with saturated aqueous sodium hydrogen carbonate (200 ml), aqueous potassium hydrogen sulfate (200 ml, 1M), and saturated aqueous sodium chloride (100 ml). The organic layer was dried over sodium sulfate, filtered and the solvent removed in vacuo to afford 4.35 g of Boc-D-Trp-D-Trp-NH2 as a white solid.

reactant | HCl | Cl | ClH
reactant | H-D-Trp-NH2 | 8.9 mmol, 1 eq. | N[C@H](CC1=CNC2=CC=CC=C12)C(=O)N | C11H13N3O
reactant | Boc-D-Trp-OH | 9.8 mmol, 2.98 g, 1.1 eq. | N([C@H](CC1=CNC2=CC=CC=C12)C(=O)O)C(=O)OC(C)(C)C | C16H20N2O4
reactant | NMM | 2.26 ml, 2.1 eq. | CN1CCOCC1 | C5H11NO
reactant | BOP | 4.33 g, 1.1 eq. | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | Boc-D-Trp-D-Trp-NH2 | 4.35 g, Yield=85% | N([C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@H](CC1=CNC2=CC=CC=C12)C(=O)N)C(=O)OC(C)(C)C | C27H31N5O4
